US04380641
1-(2,6-difluorobenzoyl)-3-(2-ethyl-4-carbethoxy-5-oxazolyl)urea
To 0.5 g. 2-ethyl-4-carbethoxy-5-aminooxazole dissolved in 20 ml. acetonitrile was added 0.7 g. 2,6-difluorobenzoylisocyanate under nitrogen at about 25° C. The reaction mixture was stirred at about 25° C. for 3 hours and the solid was collected. Yield 0.36 g.

reactant | 2-ethyl-4-carbethoxy-5-aminooxazole | C(C)C=1OC(=C(N1)C(=O)OCC)N | C8H12N2O3
reactant | 2,6-difluorobenzoylisocyanate | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2,6-difluorobenzoyl)-3-(2-ethyl-4-carbethoxy-5-oxazolyl)urea | FC1=C(C(=O)NC(=O)NC2=C(N=C(O2)CC)C(=O)OCC)C(=CC=C1)F | C16H15F2N3O5
